US06596877B2
To a mixture of 2-phenylbenzimidazole (1.02 g, 5.25 mmol) in DMC (10 mL), DBU (0.80 g, 5.25 mmol) was added and the resulting mixture was heated to reflux (90° C.) for 6 hours. The solvent was evaporated under vacuum and the resulting oil was dissolved in methylene chloride (2 mL) and filtered through silica gel (2:1 EtOA/hexane). The solvent was evaporated under vacuum to afford 1-methyl-2-phenylbenzimidazole as a solid. The yield of 1-methyl-2-phenylbenzimidazole as determined by HPLC analysis was 98%.

reactant | 2-phenylbenzimidazole | 5.25 mmol, 1.02 g | C1(=CC=CC=C1)C=1NC2=C(N1)C=CC=C2 | C13H10N2
reactant | DBU | 5.25 mmol, 0.80 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-methyl-2-phenylbenzimidazole | CN1C(=NC2=C1C=CC=C2)C2=CC=CC=C2 | C14H12N2
